US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,3-dimethylbenzamide
To a stirred solution of 0.320 g of 2,3-dimethylbenzoyl chloride in 10 ml of methylene chloride is added 0.33 ml of triethylamine. After stirring for 15 minutes, 0,485 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is added and stirring continued for 5 hours. The reaction mixture is washed with water, 1N HCl, NaHCO3, and brine. The reaction mixture is dried with Na2SO4 filtered and evaporated in vacuo to give a solid which is purified by flash chromatography using 1:1 ethyl acetate-hexane to give 0.39 g of solid, m.p. 168°-170° C.

reactant | 2,3-dimethylbenzoyl chloride | 0.320 g | CC1=C(C(=O)Cl)C=CC=C1C | C9H9ClO
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0,485 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,3-dimethylbenzamide | 0.39 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C(=CC=C1)C)C)=O | C28H25N3O2
